US09108946B2
Alternate synthetic route to: 3-(3-Chloro-1H-pyrazol-1-yl)pyridine (5b)
To a solution of 3-(3-chloro-4,5-dihydro-1H-pyrazol-1-yl)pyridine (1.09 g, 6.00 mmol) in dry N,N-dimethylformamide (6.0 mL) in a 25 mL round bottom flask was added copper(I) chloride (0.178 g, 1.80 mmol) leading to a green suspension. Dried air was bubbled through the mixture. The resultant dark green mixture was stirred at 85° C. for 16 hours. The mixture was then cooled down and dispersed into water (20 mL) and ethyl acetate (20 mL). The mixture was filtered through a pad of Celite® and washed thoroughly with ethyl acetate (4×20 mL). Aqueous layer was extracted with ethyl acetate (4×20 mL). The combined organic extracts were dried over anhydrous sodium sulfate (Na2SO4) and concentrated to afford crude product (0.582 g, 51%).

reactant | 3-(3-chloro-4,5-dihydro-1H-pyrazol-1-yl)pyridine | 6.00 mmol, 1.09 g | ClC1=NN(CC1)C=1C=NC=CC1 | C8H8ClN3
solvent | N,N-dimethylformamide | 6.0 mL | CN(C=O)C | C3H7NO
catalyst | copper(I) chloride | 1.80 mmol, 0.178 g | [Cu]Cl
product | 3-(3-Chloro-1H-pyrazol-1-yl)pyridine | 0.582 g, 51% | ClC1=NN(C=C1)C=1C=NC=CC1 | C8H6ClN3
